US08754242B2
To a stirred solution of 2-(2,6-diethyl-4-methylphenyl)-3-methoxycyclopent-2-enone (0.715 g, 2.77 mmol) in 1,4-dioxane (45 ml), and under an atmosphere of nitrogen, are added copper (II) chloride (0.743 g, 5.53 mmol) and lithium chloride (0.176 g, 4.15 mmol). The reaction is heated at reflux for 7 hours and allowed to cool to room temperature overnight. The remaining solid is removed by filtration and washed with ethyl acetate (50 ml). The filtrate is washed with water (2×25 ml) and the aqueous washings re-extracted with ethyl acetate (1.5 ml). The combined organic phases are washed with brine (15 ml), dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure to give a brown oil. The crude product is purified by column chromatography on silica gel to give 5-chloro-2-(2,6-diethyl-4-methylphenyl)-3-methoxycyclopent-2-enone.

reactant | 2-(2,6-diethyl-4-methylphenyl)-3-methoxycyclopent-2-enone | 2.77 mmol, 0.715 g | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(CCC1OC)=O | C17H22O2
reactant | lithium chloride | 4.15 mmol, 0.176 g | [Cl-].[Li+]
solvent | 1,4-dioxane | 45 ml | O1CCOCC1 | C4H8O2
catalyst | copper (II) chloride | 5.53 mmol, 0.743 g | [Cu](Cl)Cl
product | 5-chloro-2-(2,6-diethyl-4-methylphenyl)-3-methoxycyclopent-2-enone | ClC1CC(=C(C1=O)C1=C(C=C(C=C1CC)C)CC)OC | C17H21ClO2
